US20010047031A1
(RS)-4-[1-(5-Phenyl-pentyl)-pyrrolidine-3-sulfonyl]-phenol
The title compound, MS: m/e=374.4 (M+H+) was prepared from (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt and (5-bromo-pentyl)-benzene. (5-Bromo-pentyl)-benzene is a known compound and has been prepared as described in the following reference: J. Thomas; W. Marlow; J. Med. Chem.; 6; 1963; 107-111.

reactant | (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | (5-bromo-pentyl)-benzene | BrCCCCCC1=CC=CC=C1 | C11H15Br
product | (RS)-4-[1-(5-Phenyl-pentyl)-pyrrolidine-3-sulfonyl]-phenol | C1(=CC=CC=C1)CCCCCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C21H27NO3S
